US08877759B2
Preparation 10. Synthesis of tert-butyl N-[[4-[5-(3-amino-6-bromo-pyrazin-2-yl)-1,3,4-oxadiazol-2-yl]phenyl]methyl]-N-methyl-carbamate
tert-butyl N-[[4-[[(3-amino-6-bromo-pyrazine-2-carbonyl)amino]carbamoyl]phenyl]methyl]-N-methyl-carbamate (7.66 g, 15.98 mmol) was dissolved in dry acetonitrile (114.9 mL) and cooled in an ice bath and put under a nitrogen atmosphere. Diisopropylethylamine (6.196 g. 8.350 mL, 47.94 mmol) was added via a syringe followed by dibromo(triphenyl)phosphorane (8.767 g, 20.77 mmol) portion wise. Reaction mixture started to precipitate out therefore left to stir for 45 minutes in an ice bath and isolated precipitated product by filtration as a beige powder (4.5 g). This material was then sonicated, triturated in acetonitrile, filtered and dried to give the sub-titled compound as yellow solid. (3.17 g, 40.9%). 1H NMR (400 MHz, DMSO-d6) δ 1.38-1.45 (br d, 9H), 2.80 (s, 3H), 4.45 (s, 2H), 7.48-7.51 (br s, 2H), 7.80 (br s, 2H), 8.10-8.20 (m, 2H), 8.45 (s, 1H) ppm; LC/MS m/z 463.1, 464.2 [M+H]+.

reactant | tert-butyl N-[[4-[[(3-amino-6-bromo-pyrazine-2-carbonyl)amino]carbamoyl]phenyl]methyl]-N-methyl-carbamate | 15.98 mmol, 7.66 g | NC=1C(=NC(=CN1)Br)C(=O)NNC(=O)C1=CC=C(C=C1)CN(C(OC(C)(C)C)=O)C | C19H23BrN6O4
reactant | Diisopropylethylamine | 47.94 mmol, 8.350 mL, 6.196 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dibromo(triphenyl)phosphorane | 20.77 mmol, 8.767 g | BrP(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Br | C18H15Br2P
solvent | acetonitrile | 114.9 mL | C(C)#N | C2H3N
product | tert-butyl N-[[4-[5-(3-amino-6-bromo-pyrazin-2-yl)-1,3,4-oxadiazol-2-yl]phenyl]methyl]-N-methyl-carbamate | NC=1C(=NC(=CN1)Br)C1=NN=C(O1)C1=CC=C(C=C1)CN(C(OC(C)(C)C)=O)C | C19H21BrN6O3
